US07060844B2
To a stirred solution of chloroacetic anhydride (7.0 g, 41 mmol) in THF (20 ml) was added 5-aminophthalide (3.0 g, 20 mmol). The mixture was stirred at 40° C. for 2 hours, cooled to room temperature and poured into water (100 ml) with stirring. The solid was filtered, washed with water, and dried under vacuum to give 2-chloro-N-(1-oxo-1,3-dihydro-isobenzofuran-5-yl)-acetamide as a light brown powder (4.0 g, 89%).

reactant | chloroacetic anhydride | 41 mmol, 7.0 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | 5-aminophthalide | 20 mmol, 3.0 g | NC=1C=C2COC(=O)C2=CC1 | C8H7NO2
reactant | water | 100 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-chloro-N-(1-oxo-1,3-dihydro-isobenzofuran-5-yl)-acetamide | 4.0 g, 89% | ClCC(=O)NC=1C=C2COC(C2=CC1)=O | C10H8ClNO3
